US07528120B2
To a solution of 2-amino-2-[2-(4-benzyloxy-phenyl)-ethyl]-propane-1,3-diol (31.1 g, 0.10 mol) in acetonitrile (2.381) is added triethylortho acetate (17.1 ml, 0.12 mol, 1.2 eq) and acetic acid (5.48 ml, 0.11 mol, 1.1 eq), the reaction mixture is then stirred at 80° C. for 5 hours. The reaction mixture is then concentrated under vacuum, {4-[2-(4-benzyloxy-phenyl)-ethyl]-2-methyl-4,5-dihydro-oxazol-4-yl}-methanol is isolated after crystallization with ethyl acetate.

reactant | 2-amino-2-[2-(4-benzyloxy-phenyl)-ethyl]-propane-1,3-diol | 0.10 mol, 31.1 g | NC(CO)(CO)CCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C18H23NO3
reactant | triethylortho acetate | 0.12 mol, 17.1 ml, 1.2 eq | C(C)C(C([O-])([O-])[O-])(CC)CC
reactant | acetic acid | 0.11 mol, 5.48 ml, 1.1 eq | C(C)(=O)O | C2H4O2
solvent | acetonitrile | C(C)#N | C2H3N
product | {4-[2-(4-benzyloxy-phenyl)-ethyl]-2-methyl-4,5-dihydro-oxazol-4-yl}-methanol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC1(N=C(OC1)C)CO | C20H23NO3
